US04618683
α-Cyano-6-bromo-2,3-dimethoxycinnamic acid
A mixture of 6-bromo-2,3-dimethoxybenzaldehyde (48.4 g, 0.20 mole), NH4OAc (1.93 g, 0.025 mole), cyanoacetic acid (0.186 mole, 15.8 g), pyridine (42 mL), and benzene (193 mL) was stirred at reflux for 2 hours using a Dean-Stark trap for water removal. Upon cooling to room temperature a solid was filtered and washed with hexane. The solid was dissolved in 1N KOH, and was extracted with ether. The aqueous layer was acidified with 10% HCl and was extracted with CH2Cl2. The combined CH2Cl2 layers were washed with water, saturated aqueous NaCl, dried (MgSO4), filtered, and evaporated to yield 41.7 g yellow solid, (67%); mp 130°-2°; M+ 311.

reactant | 6-bromo-2,3-dimethoxybenzaldehyde | 0.20 mole, 48.4 g | BrC1=CC=C(C(=C1C=O)OC)OC | C9H9BrO3
reactant | cyanoacetic acid | 0.186 mole, 15.8 g | C(#N)CC(=O)O | C3H3NO2
reactant | pyridine | 42 mL | N1=CC=CC=C1 | C5H5N
solvent | benzene | 193 mL | C1=CC=CC=C1 | C6H6
product | α-Cyano-6-bromo-2,3-dimethoxycinnamic acid | 41.7 g, 67% | C(#N)C(C(=O)O)=CC1=C(C(=CC=C1Br)OC)OC | C12H10BrNO4
